US04251546
4-Chloro-2-(1-hydroxyethyl)phenol (4 g) was added slowly to a melt of 4-bromophenol (7.9 g) and concentrated hydrochloric acid (3 drops) at 100° C. The melt was heated at this temperature for 3 hr and then cooled and the product crystallised from benzene/hexane to give 1-(5-bromo-2-hydroxyphenyl)-1-(5-chloro-2-hydroxyphenyl)ethane (3.3 g); m.p. 167° C.

reactant | 4-Chloro-2-(1-hydroxyethyl)phenol | 4 g | ClC1=CC(=C(C=C1)O)C(C)O | C8H9ClO2
reactant | 4-bromophenol | 7.9 g | BrC1=CC=C(C=C1)O | C6H5BrO
catalyst | hydrochloric acid | 3 drops | Cl | ClH
product | 1-(5-bromo-2-hydroxyphenyl)-1-(5-chloro-2-hydroxyphenyl)ethane | 3.3 g | BrC=1C=CC(=C(C1)C(C)C1=C(C=CC(=C1)Cl)O)O | C14H12BrClO2
